US08975254B2
b) 2-Bromo-5-(2-nitro-1-phenylsulfanylethyl)furan
2-Bromo-5-((E)-2-nitrovinyl)furan (1.50 g, 0.006880 mol), thiofenol (0.91 ml, 0.99 g, 0.008945 mol) and N-isopropylcyclohexylamine (0.1 ml, 0.085 g, 0.0006017 mol) in dry methylene chloride (150 ml) was stirred in nitrogen atmosphere at RT for 4.5 h. Then the solution was washed with water, dried with Na2SO4 and evaporated. The product was stored in a freezer. 1H NMR (400 MHz, DMSO-d6): 4.94-5.01 (1H, m), 5.11-5.17 (2H, m), 6.37 (1H, d), 6.49 (1H, d), 7.38 (5H, m).

reactant | 2-Bromo-5-((E)-2-nitrovinyl)furan | 0.006880 mol, 1.50 g | BrC=1OC(=CC1)\C=C\[N+](=O)[O-] | C6H4BrNO3
reactant | thiofenol | 0.008945 mol, 0.91 ml, 0.99 g | C1=CC=C(C=C1)S | C6H6S
reactant | N-isopropylcyclohexylamine | 0.0006017 mol, 0.1 ml, 0.085 g | C(C)(C)NC1CCCCC1 | C9H19N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-5-(2-nitro-1-phenylsulfanylethyl)furan | BrC=1OC(=CC1)C(C[N+](=O)[O-])SC1=CC=CC=C1 | C12H10BrNO3S
